US04451471
5.0 g of 2-(2-hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole are suspended in 50 ml of acetic anhydride and, while stirring, the suspension is heated to the boil and refluxed for 15 minutes. The product is concentrated to dryness by evaporation under reduced pressure, two 30 ml portions of xylene are added, with concentration by evaporation being carried out again after each addition to remove traces of acetic anhydride, and the residue is dried under reduced pressure. 2-(2-Acetoxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole is obtained in the form of an oil, Rf =0.33 (silica gel toluene/ethyl acetate 10:1), IR-spectrum: νC=O =1730 cm-1 (CCl4).

reactant | 2-(2-hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole | 5.0 g | OCCSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H19NO3S2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-Acetoxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole | C(C)(=O)OCCSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C21H21NO4S2
